US07790895B2
To a solution of 3-(3-formyl-pyridin-4-yl)-benzonitrile (30 mg) in THF (2 mL) at −78° C. was added 3.0 M methylmagnesium bromide in THF (0.144 mL). The reaction mixture was quenched with ammonium chloride and extracted with ethyl acetate. The organic layer was dried over sodium sulfate, concentrated, and the residue purified by flash chromatography to yield 3-[3-(1-hydroxy-ethyl)-pyridin-4-yl]-benzonitrile as a white foam.

reactant | 3-(3-formyl-pyridin-4-yl)-benzonitrile | 30 mg | C(=O)C=1C=NC=CC1C=1C=C(C#N)C=CC1 | C13H8N2O
reactant | methylmagnesium bromide | 3.0 M | C[Mg]Br
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | THF | 0.144 mL | C1CCOC1 | C4H8O
product | 3-[3-(1-hydroxy-ethyl)-pyridin-4-yl]-benzonitrile | OC(C)C=1C=NC=CC1C=1C=C(C#N)C=CC1 | C14H12N2O
